US06362174B1
[S-(R*,R*)]Azepane-1-carboxylic acid (1-{[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylamino]-methyl}-3-methyl-butyl)-amide dihydrochloride salt
A solution of 746 mg (1.6 mmol) 2-(2-amino-4-methyl-pentylamino)-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide, 0.408 mL (3.1 mmol) hexahydroazepinyl carbamoyl chloride, 20 mg (0.16 mmol) 4-dimethylaminopyridine (Aldrich, Milwaukee, Wis.), 0.818 mL (4.7 mmol) N,N-diisopropylethylamine (Aldrich, Milwaukee, Wis.), in 10 mL of benzene was heated under reflux for 16 hours, cooled to 25° C. and filtered, and the solids washed with benzene. The filtrate was concentrated under reduced pressure, and the residue thus obtained was dissolved in 100 mL ethyl acetate, and washed with 100 mL each saturated NaHCO3 solution and brine, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure to give a pale amber oil that was purified by column chromatography on silica gel with 1:1 ethyl acetate:chloroform as eluant. The clear, colorless oil obtained was dissolved in 10 mL diethyl ether, and treated with diethyl ether that had been saturated with hydrogen chloride gas. The precipitate that formed was collected by filtration, and the solids washed with ethyl acetate and dried. The title compound was obtained as 440 mg off-white solid (77%); mp 51-57° C.

reactant | 2-(2-amino-4-methyl-pentylamino)-3-(4-benzyloxy-phenyl)-N-tert-butyl-propionamide | 1.6 mmol, 746 mg | NC(CNC(C(=O)NC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C26H39N3O2
reactant | hexahydroazepinyl carbamoyl chloride | 3.1 mmol, 0.408 mL | N1(CCCCCC1)NC(=O)Cl | C7H13ClN2O
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.818 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrogen chloride | Cl | ClH
reactant | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.16 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | Azepane-1-carboxylic acid (1-{[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylamino]-methyl}-3-methyl-butyl)-amide dihydrochloride salt | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NCC(CC(C)C)NC(=O)N1CCCCCC1 | InChI=1S/C33H50N4O3.2ClH/c1-25(2)21-28(35-32(39)37-19-11-6-7-12-20-37)23-34-30(31(38)36-33(3,4)5)22-26-15-17-29(18-16-26)40-24-27-13-9-8-10-14-27;;/h8-10,13-18,25,28,30,34H,6-7,11-12,19-24H2,1-5H3,(H,35,39)(H,36,38);2*1H
